US04436726
Starting from 2-hexadecanoyloxyhexadecanoic acid (2.55 g) prepared by the method described in Preparation 7 and L-valine (2.34 g), N-(2-hexadecanoyloxyhexadecanoyl)-L-valine (2.5 g) was obtained as crystals according to a similar manner to that of Example 6.

reactant | 2-hexadecanoyloxyhexadecanoic acid | 2.55 g | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)O)CCCCCCCCCCCCCC | C32H62O4
reactant | L-valine | 2.34 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
product | N-(2-hexadecanoyloxyhexadecanoyl)-L-valine | 2.5 g | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCCCCCCCC | C37H71NO5
